US05977353
The solution of 1,4,7,10-tetraazacyclododecane-1,4,7-triacetic acid sodium salt is directly reacted, as described in EP 448191, with 4,4-dimethyl-3,5,8-trioxabicyclo[5.1.0]octane to give the alkylated product, which can easily be complexed with gadolinium to give the final Gadobutrol.

reactant | 1,4,7,10-tetraazacyclododecane-1,4,7-triacetic acid sodium salt | [Na+].N1(CCN(CCN(CCNCC1)CC(=O)[O-])CC(=O)[O-])CC(=O)[O-].[Na+].[Na+]
reactant | 4,4-dimethyl-3,5,8-trioxabicyclo[5.1.0]octane | CC1(OCC2OC2CO1)C | C7H12O3
reactant | gadolinium | [Gd] | Gd
product | Gadobutrol | C1CN(CCN(CCN(CCN1CC(=O)[O-])CC(=O)[O-])C(CO)C(CO)O)CC(=O)[O-].[Gd+3] | InChI=1S/C18H34N4O9.Gd/c23-12-14(15(25)13-24)22-7-5-20(10-17(28)29)3-1-19(9-16(26)27)2-4-21(6-8-22)11-18(30)31;/h14-15,23-25H,1-13H2,(H,26,27)(H,28,29)(H,30,31);/q;+3/p-3
